US07348425B2
1-amino-N-(4-(oxazol-5-yl)phenyl)cyclopentanecarboxamide.
The title compound was prepared as described above for N-(4-(1H-1,2,4-triazol-1-yl)phenyl)-1-aminocyclopentanecarboxamide using 4-(oxazol-5-yl)benzenamine as the amine counterpart. LCMS: m/e 272 (M+H)+, ret time 1.03 min, column 3, 2 minute gradient.

reactant | N-(4-(1H-1,2,4-triazol-1-yl)phenyl)-1-aminocyclopentanecarboxamide | N1(N=CN=C1)C1=CC=C(C=C1)NC(=O)C1(CCCC1)N | C14H17N5O
reactant | 4-(oxazol-5-yl)benzenamine | O1C=NC=C1C1=CC=C(C=C1)N | C9H8N2O
product | 1-amino-N-(4-(oxazol-5-yl)phenyl)cyclopentanecarboxamide | NC1(CCCC1)C(=O)NC1=CC=C(C=C1)C1=CN=CO1 | C15H17N3O2
